US09399636B2
Step 1: tert-butyl 4-(2,6-dichloropyridin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate
To a mixture of 2,6-dichloro-4-iodo-pyridine (1.0 g, 3.7 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-2H-pyridine-1-carboxylate (1.4 g; 4.4 mmol), potassium carbonate (1.0 g, 7.3 mmol), and Pd(dppf)Cl2 DCM (300 mg, 0.37 mmol) in 1,4-dioxane (12.0 mL) and water (3.0 mL) was capped in a large CEM microwave vial, de-gassed with N2, and heated in an oil-bath at 90° C. for overnight. It was diluted with water (100 mL), extracted with EtOAc (2×100 mL). The combined EtOAc was washed with brine, dried over MgSO4, filtered, and concentrated onto Celite. It was purified by column chromatography (ISCO0, 40 g column, eluded with 0-15% EtOAc/Heptane to give 670 mg (56%) of the title compound as a light yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.21 (s, 2H), 6.32 (s, 1H), 4.12 (d, J=2.7 Hz, 2H), 3.63 (t, J=5.6 Hz, 2H), 2.45 (s, 2H), 1.49 (s, 9H). LC-MS: m/z=330 (M+H+).

reactant | 2,6-dichloro-4-iodo-pyridine | 3.7 mmol, 1.0 g | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-2H-pyridine-1-carboxylate | 4.4 mmol, 1.4 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | potassium carbonate | 7.3 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 12.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 3.0 mL | O | H2O
catalyst | Pd(dppf)Cl2 DCM | 0.37 mmol, 300 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | tert-butyl 4-(2,6-dichloropyridin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 670 mg, 56% | ClC1=NC(=CC(=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)Cl | C15H18Cl2N2O2
